US04908447
13.9 parts of 1-phenacylpyridinium bromide and 14.27 parts of 1-(4-chlorophenyl)-3-(4-dimethylaminophenyl)-1-oxoprop-2-ene are heated at 120° C. for 3.5 hours together with 34 parts of ammonium acetate in 50 parts of glacial acetic acid. Working up as described in Example 1 gives 4-(4'-dimethylaminophenyl)-2-(4'-chlorophenyl)-6-phenylpyridine in the form of a colorless powder, which dissolves in glacial acetic acid to give a yellow color (λmax: 425 nm).

reactant | 1-phenacylpyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=CC=C1
reactant | 1-(4-chlorophenyl)-3-(4-dimethylaminophenyl)-1-oxoprop-2-ene | ClC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)N(C)C)=O | C17H16ClNO
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4'-dimethylaminophenyl)-2-(4'-chlorophenyl)-6-phenylpyridine | CN(C1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C | C25H21ClN2
